US07678795B2
(1SR,8RS)-5-(2-Methoxy-phenyl)-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene
light yellow gum. MS (ESI): 253.3 (MH+). Prepared from bicyclo[2.2.1]heptane-2,3-dione, [2-(2-Methoxy-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | bicyclo[2.2.1]heptane-2,3-dione | C12C(C(C(CC1)C2)=O)=O | C7H8O2
reactant | [2-(2-Methoxy-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester | COP(OC)(=O)CC(=O)C1=C(C=CC=C1)OC | C11H15O5P
reactant | hydrazine monohydrate | O.NN
product | (1SR,8RS)-5-(2-Methoxy-phenyl)-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene | COC1=C(C=CC=C1)C1=NN=C2C3CCC(C2=C1)C3 | C16H16N2O
